US07968552B2
A mixture of 2-(4-aminobenzyl)-1,2,4-oxadiazolidine-3,5-dione (500 mg), 4′-chloro-2′-methylbiphenyl-3-carbaldehyde (668 mg), acetic acid (0.33 ml) and THF (40 ml) was stirred at room temperature for 24 hours. Sodium triacetoxyborohydride (767 mg) was added to the reaction mixture, followed by stirring at room temperature for 15 minutes. The solvent was evaporated under a reduced pressure, and water was added to the residue, followed by extraction with chloroform. The organic layer was washed with a saturated sodium chloride aqueous solution, the solvent was evaporated under a reduced pressure, toluene was added to the residue, and the solvent was again evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), and THF (5 ml), methanol (5 ml) and a 1 M sodium hydroxide aqueous solution (1.47 ml) were added to the resulting pale yellow foamy substance (620 mg), followed by stirring at room temperature for 5 minutes. The solvent was evaporated under a reduced pressure, the residue was purified by an ODS column chromatography (water-acetonitrile) and made into a solid by adding diethyl ether. The solid was collected by filtration and then dried by heating under a reduced pressure to obtain sodium 2-(4-{[(4′-chloro-2′-methylbiphenyl-3-yl)methyl]amino}benzyl)3,5-dioxo-1,2,4-oxadiazolidin-4-ide (160 mg) as a white solid.

reactant | 2-(4-aminobenzyl)-1,2,4-oxadiazolidine-3,5-dione | 500 mg | NC1=CC=C(CN2OC(NC2=O)=O)C=C1 | C9H9N3O3
reactant | 4′-chloro-2′-methylbiphenyl-3-carbaldehyde | 668 mg | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)C=O)C | C14H11ClO
reactant | acetic acid | 0.33 ml | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 767 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | sodium 2-(4-{[(4′-chloro-2′-methylbiphenyl-3-yl)methyl]amino}benzyl)3,5-dioxo-1,2,4-oxadiazolidin-4-ide | 160 mg | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)CNC1=CC=C(CN2OC([N-]C2=O)=O)C=C1)C.[Na+] | InChI=1S/C23H20ClN3O3.Na/c1-15-11-19(24)7-10-21(15)18-4-2-3-17(12-18)13-25-20-8-5-16(6-9-20)14-27-22(28)26-23(29)30-27;/h2-12,25H,13-14H2,1H3,(H,26,28,29);/q;+1/p-1
